US07582629B2
2-tert-Butyl-4-[(6-morpholin-4-ylpyridin-3-yl)amino]-5-phenylisothiazol-3(2H)-one 1,1-dioxide
A solution of 2-tert-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide (0.150 g, 0.50 mmol), 6-morpholin-4-ylpyridin-3-amine (0.108 g, 0.60 mmol) and TEA (0.06 mL, 0.60 mmol) in MeCN (2 mL) was heated at 140° C. for 1 h in a microwave reactor. The mixture was evaporated and the residue was purified by silica gel column chromatography using a 3:1 mixture of EtOAc and petroleum ether as eluant, to give the title compound (0.038 g, 17%) as a solid; 1H NMR (500 MHz, CDCl3): δ 7.81 (d, 1H), 7.24-7.1.5 (m, 1H), 7.14-7.10 (m, 4H), 6.94 (s, 1H), 6.72 (dd, 1H), 6.12 (d, 1H), 3.75 (t, 4H), 3.33 (t, 4H), 1.77 (s, 9H); 13C NMR (125 MHz, CDCl3): δ 159.9, 157.5, 142.9, 131.6, 131.9, 130.0, 129.1, 128.3, 124.7, 124.2, 110.2, 105.9, 66.7, 62.1, 46.1, 27.9; Mass Spectrum: M+H+ 443.

reactant | 2-tert-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.50 mmol, 0.150 g | C(C)(C)(C)N1S(C(=C(C1=O)Cl)C1=CC=CC=C1)(=O)=O | C13H14ClNO3S
reactant | 6-morpholin-4-ylpyridin-3-amine | 0.60 mmol, 0.108 g | N1(CCOCC1)C1=CC=C(C=N1)N | C9H13N3O
solvent | MeCN | 2 mL | CC#N | C2H3N
product | 2-tert-Butyl-4-[(6-morpholin-4-ylpyridin-3-yl)amino]-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.038 g, 17% | C(C)(C)(C)N1S(C(=C(C1=O)NC=1C=NC(=CC1)N1CCOCC1)C1=CC=CC=C1)(=O)=O | C22H26N4O4S
